Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
Impella-supported rotational atherectomy and deployment of 
drug-eluting stents in the LAD ___
 
History of Present Illness:
___ year old man with H/O CAD S/P MI treated with RCA PCI ___, 
diabetes mellitus on insulin, hypertension, PAD with left foot 
ulcer and h/o osteomyelitis of right great toe now s/p 
amputation and completed course of vancomycin, ESRD on HD MWF, 
transferred from ___ for consideration of 
ICD placement and coronary revascularization after presenting 
with syncope with ventricular tachycardia.

He had recently presented to ___ ___ with GI bleeeing 
due to duodenal ulcers. That admission was complicated by 
NSTEMI, which was medically managed.  He was readmitted to ___ 
___ with <1 minute episode of syncope. EMS noted new 
monomorphic ventricular tachycardia that was treated with 
amiodarone 150 mg with return to NSR. Head CT was normal. 
Echocardiogram showed LVEF 55% with RCA distribution wall motion 
abnormalities. Coronary angiography ___ showed multivessel 
disease, prompting transfer to ___ for evaluation for ICD and 
coronary revascularization.
 
Past Medical History:
- CAD with IMI ___ treated at ___ with mid RCA PCI (3.5X15 mm 
Biodivysio stent)
- Type 2 diabetes mellitus, on insulin
- Hypertension
- PAD with left foot ulcer and partial amputation as well as 
right hallux osteomyelitits
- ESRD on HD MWF
- UGIB attributed to duodenal ulcers
- GERD,

Past Surgical History: 
- S/P partial left foot amputation ___
- S/P bilateral hernia repairs
 
Social History:
___
Family History:
Father with CAD
 
Physical Exam:
Elderly Hispanic man in NAD
Pulse: 56 SB  Resp: 13  O2 sat: 98% on RA  BP Left: 150/59
Weight: 77.2kg
Skin: Dry [x] intact [x]
HEENT: PERRL [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused []  Edema [] trace
s/p amputation of right great toe
left foot with non-healing ulcer
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:1+   Left:1+
DP           Right:doppler   Left: doppler
___           Right:doppler   Left: doppler
Radial       Right: 2+  Left:2+
Carotid Bruit: no bruits
 
Pertinent Results:
___ 10:55AM   WBC-4.8 RBC-3.26* HGB-9.7* HCT-31.5*# MCV-97 
MCH-29.8 MCHC-30.8* RDW-17.2* RDWSD-59.5*
___ 10:55AM   PLT COUNT-108*

___ 10:55AM   GLUCOSE-84 UREA N-25* CREAT-4.9*# SODIUM-136 
POTASSIUM-5.9* CHLORIDE-98 TOTAL CO2-22 ANION GAP-16
___ 10:55AM   ALT(SGPT)-11 AST(SGOT)-46* LD(LDH)-476* ALK 
PHOS-89 AMYLASE-53 TOT BILI-0.5
___ 09:20AM   HBsAg NEG  HBsAb POS  HBcAb NEG  HCVAb NEG
___ 10:55AM   LIPASE-18
___ 10:55AM   ALBUMIN-3.1* MAGNESIUM-2.1
___ 10:55AM   %HbA1c-5.1 eAG-100
___ 06:05AM   TSH 2.1

CHEST (PRE-OP PA & LAT) ___ 2:38 ___ 
The lungs are well expanded. There is pulmonary vascular 
engorgement centered about the bilateral hila with mild 
interstitial edema most prominent about the left hilum. There is 
also mild interstitial edema in the bilateral lower lobes and 
small bilateral pleural effusions. The heart is moderately 
enlarged. There are no worrisome osseous abnormalities. 
IMPRESSION: Moderate cardiomegaly with pulmonary vascular 
engorgement, mild interstitial edema, and small bilateral 
pleural effusions likely indicates acute cardiac decompensation. 
No overt alveolar edema. 

Carotid ultrasound ___ 
Right ICA <40% stenosis. 
Left ICA 60-69% stenosis. 
  
Chest CT ___
THORACIC INLET: The thyroid is unremarkable. There are no 
enlarged supraclavicular lymph nodes. 
BREAST AND AXILLA: There are no enlarged axillary lymph nodes. 
MEDIASTINUM: The esophagus is dilated with food and fluid 
residue extending up to the upper chest. This could be related 
to motility disorder. Correlation with history is recommended. 
NODES: There are small mediastinal lymph nodes most likely 
reactive. 
HEART, VESSELS and PERICARDIUM: There is moderate cardiomegaly. 
Coronary artery calcification is seen. There is atherosclerotic 
calcification involving the descending thoracic aorta. There is 
no pericardial effusion 
PLEURA: There are small bilateral pleural effusions right 
greater than left there is mild pleural thickening on the left. 
LUNG: 
1. PARENCHYMA: There are patchy bronchus centric opacities in 
the right upper lobe and mild septate thickening in both lower 
lobes, these could represent asymmetric pulmonary edema. There 
is evidence of mitral annulus calcification. Aortic annulus 
calcification is also seen. 
2. AIRWAYS: The airways are patent up to the subsegmental level 
3. Nodules: No lung nodules are seen 
BONES: Review of bones shows degenerative changes involving the 
thoracic spine. 
UPPER ABDOMEN: Limited sections through the upper abdomen are 
unremarkable. 
IMPRESSION: 
- Small bilateral pleural effusions with bibasilar atelectasis 
and mild asymmetric edema in the right upper lobe. 
- Coronary artery calcifications, severe. Cardiomegaly. 
- Atherosclerotic calcification involving the aortic annulus and 
areas of discontinuous caused calcification involving the 
descending thoracic aorta. 
- The esophagus is dilated with food and fluid residue extending 
up to the lower neck and upper chest, could be related to 
motility disorder. Correlation with history is recommended. The 
residual food in fluid within the proximal esophagus is 
concerning for possible aspiration. 

FOOT ___ 4:30 ___ 
There are changes from at least second metatarsal head 
resection, though portions of the phalanges of the second digit 
are seen. Evaluation of the third through fifth phalanges is 
limited by patient positioning with flexion. There do appear to 
be some areas of osteopenia of these digits starting at the 
metatarsal heads, though these findings are equivocal for 
osteomyelitis, and gadolinium-enhanced MRI will be far more 
sensitive. Otherwise, no frank bony destruction is seen. There 
is no subcutaneous emphysema. Severe vascular calcifications are 
seen. There is irregularity of the base of the first metatarsal, 
with possible widening of the Lisfranc interval, suggesting 
prior injury. There also mild-to-moderate midfoot degenerative 
changes. There is no frank acute fracture or dislocation.

PCI ___
Coronary Anatomy
  Left main coronary artery: Normal
  Left anterior descending coronary disease: Heavily calcified 
vessel with 80% stenoses in the proximal, mid, and distal LAD. 
There was small diagonal branches.
  Left circumflex coronary artery: 80% proximal. Diffusely 
disease 80% ramus branch.
  RCA: Total occlusion with left to right collaterals to the 
PDA.
Interventional Details The patient was deemed inoperable due to 
diffuse disease and poor target vessels by cardiac surgery. The 
LAD was deemed the culprit lesion. The LCx and ramus branches 
potentially supply non viable mycardium.
  Unfractionated heparin was used for anticoagulation.
  An Impella CP was placed from the left femoral artery using a 
___ Fr Preclose technique with 3.3 L/min support.
  Using a ___ Fr EBU 4.0 guiding catheter, a 0.014 BMW wire 
positioned through a Turnipike LP. A series of balloon dilations 
were performed with a 2.0 mm and 1.5 mm balloons in the LAD but 
there was minimal dilation due to underlying calcium. As a 
result, the 0.014 BMW wire was exchanged for a 0.009" rotational 
atheterectomy wire and a 1.25 mm rotational atherectomy burr was 
used to ablate the entire proximal, mid, or distal vessel. The 
LAD as then dilated again with a 2.0 mm balloon with complete 
expansion. A Onyx 2.25 mm x 26 mm stent was placed distal, a 
2.25 mm x 30 mm Onyx was place in the mid segment, and a 2.5 mm 
x 15 mm proximally. The stents were all dilated with a 2.5 mm 
balloom resulting in no residual stenosis and TIMI 3 flow into 
the distal vessel. At the end of the procedure. there was no 
residual stenosis and TIMI 3 flow into the distal vessel.
  The Impella was removed with the Perclose and a ___ Fr Angioseal 
was placed.
  The procedure was complex and prolonged with a high radiation 
dose.
Impressions:
1. Three vessel coronary artery disease
2. Successful rotational atherectomy and coronary drug eluting 
stent placement
3. Impella assisted PCI due to reduced ejection fraction
Recommendations:
1. Medical therapy
2. Dual antiplatelet therapy

DISCHARGE LABS
___ 06:05AM BLOOD WBC-4.4 RBC-2.88* Hgb-8.5* Hct-26.8* 
MCV-93 MCH-29.5 MCHC-31.7* RDW-16.1* RDWSD-54.7* Plt ___
___ 06:05AM BLOOD Glucose-117* UreaN-36* Creat-6.1*# Na-141 
K-4.4 Cl-99 HCO3-26 AnGap-16
___ 06:05AM BLOOD Calcium-7.3* Phos-4.0 Mg-2.___ year old man with H/O CAD S/P MI treated with RCA PCI ___, 
diabetes mellitus on insulin, hypertension, PAD with left foot 
ulcer and h/o osteomyelitis of right hallux, ESRD on HD MWF, 
recent GI bleed from duodenal ulcers complicated by NSTEMI 
medially managed, now transferred from ___ 
for consideration of ICD placement and coronary 
revascularization after presenting with syncope with ventricular 
tachycardia and diagnosed 3 vessel coronary artery disease.

ACUTE ISSUES:
# Syncope, ventricular tachycardia. Patient found to be in VT by 
EMS en route to ___ but converted to NSR after 
administration of admiodarone. He was transferred to ___ 
for further evaluation and Electrophysiology consultation. He 
remained hemodynamically stable in SR/SB on amiodarone 400 PO 
daily. He was transferred to general cardiology, where he had no 
further VT and was continued on amiodarone. Placement of ICD was 
deferred given planned (and subsequent) percutaneous coronary 
revascularization, as below. He was discharged with a temporary 
LifeVest pending permanent ICD placement.

# NSTEMI secondary to multi-vessel disease: Per ___ 
records, patient was found to have NSTEMI in ___, treated 
with clopidogrel in setting of GI bleeding. LVEF was preserved 
with inferior wall motion abnormalities. Coronary angiography 
after this syncopal episode showed 3 vessel CAD. He was 
evaluated by Cardiac Surgery, who felt that his anatomy would 
not be suitable for CABG in absence of acceptable distal vessels 
to graft onto. Patient underwent Impella supported rotational 
atherectomy and deployment of 3 drug-eluting stents in the LAD 
with slightly high radiation exposure. LCx was felt to supply 
non-viable myocardium, with a chronic total occlusion of the 
RCA; thus there is no plan for further revasularization. He was 
continued on aspirin, atorvastatin, and metoprolol. He was also 
started on lisinopril. He will require a minimum of 12 months 
clopidogrel for his new DES to LAD.

# ESRD: Continued hemodialysis MWF, sevelamer with meals, 
Nephrocaps daily.

CHRONIC/STABLE ISSUES:  
# PAD with left plantar foot ulcer: History of osteomyelitis. 
Per ID, no evidence of active infection this admission. 
Continued daily wound care.

# Type 2 diabetes mellitus: Managed with insulin sliding scale.

# Hypertension: Managed with lisinopril and metoprolol as above.

# H/P duodenal ulcers: Managed with PPI (changed from home 
omeprazole to pantoprazole given clopidogrel use) and 
famotidine.

TRANSITIONAL ISSUES:
====================
[] Labs notable for pancytopenia of unclear etiology this 
admission. Stable. Recommend PCP evaluation and consideration 
for referral to hem/onc as needed
[] Patient started on amiodarone for prevention of recurrent VT. 
Consider tapering as tolerated given potential for adverse 
effects.
[] Electrophysiology will contact patient directly to schedule 
ICD placement; he will also be followed by Dr. ___ 
___ pending)
[] Patient will see outpatient cardiologist, Dr. ___, 
___ at 1:15 ___
[] CODE STATUS: Full Code
[] CONTACT: Granddaughter, ___ ___ 
(no HCP)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 12.5 mg PO BID 
2. Simvastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
5. Clopidogrel 75 mg PO DAILY 
6. Omeprazole 40 mg PO DAILY
 
Discharge Medications:
1.  Amiodarone 400 mg PO DAILY 
RX *amiodarone 400 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
5.  Pantoprazole 40 mg PO Q24H  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Clopidogrel 75 mg PO DAILY  
9.  sevelamer CARBONATE 1600 mg PO TID W/MEALS
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Coronary artery disease
-Recent non-ST segment elevation myocardial infarction
-Ventricular tachycardia
-Diabetes mellitus, type 2, with 
-Peripheral arterial disease
-End stage renal disease on hemodialysis
-Hypertension
-Hyperlipidemia
-Duodenal ulcer disease with recent gastrointestinal bleeding
-Gastroesophageal reflux disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You were admitted because you had an irregular heart rhythm 
and a recent heart attack

What happened while I was in the hospital?  
- We examined your heart arteries with cardiac catheterization, 
and found that you have severe narrowing of multiple arteries 
supplying your heart
- We opened one of the most important blocked arteries by 
placing three stents
- We also evaluated your heart rhythm, and found that you would 
benefit from an internal heart defibrillator, which shocks your 
heart back to normal if you have a dangerous heart rhythm. You 
will discuss when it is safe for this to happen with the 
Electrophysiology team.
- You will go home with a vest defibrillator, a "Lifevest", 
which will be temporary until you have your permanent 
defibrillator placed.
- You also continued your regular dialysis schedule 

What should I do after leaving the hospital?  
- Please take your medications as listed in discharge summary 
and follow up at the listed appointments
- Most importantly, please be sure to take your aspirin and 
Plavix (clopidogrel) every day. If you miss even one day of 
these two medications, you risk having new blockages in your 
stents
- Please contact a medical professional if you have worsening 
chest pain, shortness of breath, leg swelling, or further 
episodes of fainting

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team 
 
Followup Instructions:
___